US06683201B2
A solution of 173 mg (0.8 mmol) of [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-amine in 2 ml dioxane was treated with 0.15 ml (0.88 mmol) Huinigsbase and 247 mg (1 mmol) 4-(trifluoromethyl)benzenesulfonyl chloride. The reaction mixture was stirred over night at room temperature and extracted with aqueous 10% KHSO4/EtOAc (3×). The aqueous phase was treated with NaHCO3 (pH 7-8) and extracted with CH2Cl2 (3×). The organic phase was dried over Na2SO4 and evaporated. Flash column chromatography on silica gel with CH2Cl2/MeOH (9:1) yielded 223 mg (65%) of N-[4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 425 (MH+).

reactant | [4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-methyl-amine | 0.8 mmol, 173 mg | CN(CCCC#CC1=CC=C(C=C1)NC)C | C14H20N2
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 1 mmol, 247 mg | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | N-[4-(5-Dimethylamino-pent-1-ynyl)-phenyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 223 mg, 65% | CN(CCCC#CC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C21H23F3N2O2S
